US05298652
A solution of 1.9 ml (7 mmol) of myristoyl chloride in 10 ml of anhydrous THF was added dropwise to a stirred, ice cooled mixture of 1.0 g (3.09 mmol) of N-(3,5-diaminobenzoyl)-N-(2-ethoxy-2-oxoethyl)glycine ethyl ester and 1.7 ml (12.4 mmol) of triethylamine in 20 ml of anhydrous THF. The reaction mixture was stirred in the cooling bath for 30 minutes and then at room temperature for 24 hours. The solvent was removed at reduced pressure and the residue was extracted with ethyl acetate. After washing with NaHCO3 solution, the dried extract was concentrated to an oil which was purified by chromatography on 120 g of silica gel using 40% ethyl acetate-hexane to give 2.1 g (91% yield) of N-(2-ethoxy-2-oxoethyl)-N-[3,5-bis(1-oxotetradecylamino)benzoyl]glycine ethyl ester as a yellow oil. The nmr and mass spectra were consistent with the structure.

reactant | myristoyl chloride | 7 mmol, 1.9 ml | C(CCCCCCCCCCCCC)(=O)Cl | C14H27ClO
reactant | N-(3,5-diaminobenzoyl)-N-(2-ethoxy-2-oxoethyl)glycine ethyl ester | 3.09 mmol, 1.0 g | C(C)OC(CN(CC(=O)OCC)C(C1=CC(=CC(=C1)N)N)=O)=O | C15H21N3O5
reactant | triethylamine | 12.4 mmol, 1.7 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | N-(2-ethoxy-2-oxoethyl)-N-[3,5-bis(1-oxotetradecylamino)benzoyl]glycine ethyl ester | 2.1 g, 91% yield | C(C)OC(CN(C(C1=CC(=CC(=C1)NC(CCCCCCCCCCCCC)=O)NC(CCCCCCCCCCCCC)=O)=O)CC(=O)OCC)=O | C43H73N3O7
